US05817678
Step A: Preparation of cis-3-Methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine
1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-[N-(1-(4- cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine (1.14 g, 2.30 mmol) was dissolved in CH2Cl2 (12 mL). Trifluoroacetic acid (6 mL) was added and the solution was stirred at ambient temperature for 3 h. The solution was concentrated to dryness to give the title compound.

reactant | 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-[N-(1-(4- cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine | 2.30 mmol, 1.14 g | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)C(NCCC1=CN=CN1CC1=CC=C(C=C1)C#N)=O)C(=O)OC | C26H33N5O5
reactant | Trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | cis-3-Methoxycarbonyl-5-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine | COC(=O)[C@@H]1CNC[C@@H](C1)C(NCCC1=CN=CN1CC1=CC=C(C=C1)C#N)=O | C21H25N5O3
